US07989457B2
Step B. Racemic 1-[4-(2,3,5,6-Tetramethyl-benzyloxy)-phenyl]-propan-1-ol
NaBH4 (616 mg, 16.2 mmol) is added to the solution of 1-[4-(2,3,5,6-Tetramethyl-benzyloxy)-phenyl]-propan-1-one (4.0 g, 13.5 mmol) in THF (30 mL) and EtOH (5 mL). After stirring for 2 h, the reaction is quenched by water and extracted with ethyl acetate. The solvent is removed to afford the titled compound as a white solid (4.0 g).

reactant | NaBH4 | 16.2 mmol, 616 mg | [BH4-].[Na+]
reactant | 1-[4-(2,3,5,6-Tetramethyl-benzyloxy)-phenyl]-propan-1-one | 13.5 mmol, 4.0 g | CC1=C(COC2=CC=C(C=C2)C(CC)=O)C(=C(C=C1C)C)C | C20H24O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOH | 5 mL | CCO | C2H6O
product | Racemic 1-[4-(2,3,5,6-Tetramethyl-benzyloxy)-phenyl]-propan-1-ol | 4.0 g | CC1=C(COC2=CC=C(C=C2)C(CC)O)C(=C(C=C1C)C)C | C20H26O2
